US06307047B1
2-(3,4-Difluorophenyl)-4-(4-methyl-3-pentenyloxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 384 substituting 2-(3,4-difluorophenyl)-4-(4-methyl-3-pentenyloxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-benzyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone. mp 70-73° C. 1H NMR (300 MHz, DMSO-d6) δ 1.5 (d, 6H), 2.27 (m, 2H) 4.43 (t, 2H), 4.5 (m, 1H), 7.5 (m, 2H), 7.6 (m, 1H), 7.8 (m, 2H), 7.92 (d, J=2 H, 2H), 8.2 (s, 1H). MS (DCI/NH3) m/z 462 (M+H)+, 479 (M+NH4)+. Anal. calc. for C22H21F2N3O4S: C, 57.26; H, 4.59; N, 9.11. Found,: C, 56.96; H, 4.70; N, 9.01.

reactant | 2-(3,4-difluorophenyl)-4-(4-methyl-3-pentenyloxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCC=C(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C23H22F2N2O4S
reactant | NH3 | N | H3N
product | 2-(3,4-Difluorophenyl)-4-(4-methyl-3-pentenyloxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCCC=C(C)C)C1=CC=C(C=C1)S(=O)(=O)N | C22H21F2N3O4S
